US06831193B2
4-(aminocarbonyl)-6-({(3-phenoxybenzyl)[(1S)-1,2,3,4-tetrahydro-1-naphthalenyl]amino}carbonyl)isophthalic acid
1,2,4,5-Benzenetetracarboxylic dianhydride (1 mmol), diisopropylethyl amine, N-(3-phenoxybenzyl)-N-[(1S)-1,2,3,4-tetrahydro-1-naphthalenyl]amine and ammonium hydroxide were processed as described in Example 100 to provide the title compounds as a white solid (120 mg, 21% yield).

reactant | 1,2,4,5-Benzenetetracarboxylic dianhydride | 1 mmol | C1=C2C(=CC3=C1C(=O)OC3=O)C(=O)OC2=O | C10H2O6
reactant | diisopropylethyl amine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-(3-phenoxybenzyl)-N-[(1S)-1,2,3,4-tetrahydro-1-naphthalenyl]amine | O(C1=CC=CC=C1)C=1C=C(CN[C@H]2CCCC3=CC=CC=C23)C=CC1 | C23H23NO
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 4-(aminocarbonyl)-6-({(3-phenoxybenzyl)[(1S)-1,2,3,4-tetrahydro-1-naphthalenyl]amino}carbonyl)isophthalic acid | 120 mg, 21% yield | NC(=O)C1=C(C=C(C(=O)O)C(=C1)C(=O)N([C@H]1CCCC2=CC=CC=C12)CC1=CC(=CC=C1)OC1=CC=CC=C1)C(=O)O | C33H28N2O7
